US04988828
N-[3-(3-hydroxymethylphenoxy)propyl]phthalimide (16 g) was dissolved in 300 ml of methanol, and 5 g of hydrazine hydrate was added. The mixture was refluxed for 5 hours, and after cooling, the insoluble matter was removed by filtration. The filtrate was concentrated to give 4.85 g (yield 52.1%) of 3-(3-hydroxymethylphenoxy)propylamine.

reactant | N-[3-(3-hydroxymethylphenoxy)propyl]phthalimide | 16 g | OCC=1C=C(OCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C18H17NO4
reactant | hydrazine hydrate | 5 g | O.NN
solvent | methanol | 300 ml | CO | CH4O
product | 3-(3-hydroxymethylphenoxy)propylamine | 4.85 g, yield 52.1% | OCC=1C=C(OCCCN)C=CC1 | C10H15NO2
